US05294608
Synthesis of 4-((aminoiminomethyl)amino)butane-1,1-bisphosphonic acid
A solution of 0.92 g (2.56 mmol) of tetraethyl 4-((bis(1,1-dimethylethoxycarbonyl)aminoiminomethyl)amino)butane-1,1-bisphosphonate in 15 ml of concentrated hydrochloric acid is heated at boiling point for 12 hours. After concentration, the residue is treated with ethanol. The precipitate is filtered off with suction under reduced pressure and dried under reduced pressure. It is recrystallized from ethanol/water.

reactant | tetraethyl 4-((bis(1,1-dimethylethoxycarbonyl)aminoiminomethyl)amino)butane-1,1-bisphosphonate | 2.56 mmol, 0.92 g | CC(C)(OC(=O)N(C(=O)OC(C)(C)C)N=CNCCCC(P(OCC)(=O)OCC)P(OCC)(=O)OCC)C | C23H47N3O10P2
solvent | hydrochloric acid | 15 ml | Cl | ClH
product | 4-((aminoiminomethyl)amino)butane-1,1-bisphosphonic acid | NN=CNCCCC(P(O)(=O)O)P(O)(=O)O | C5H15N3O6P2
